data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH2+:21].CCOC(=O)CC1=NC(=NN1)[S-:10].[Na+].[Cl-]>>[H:20][S:10]C1=NNC(=N1)CC(=O)OCC.[OH2:21].[Na+].[Cl-] 10=20;20,21=21
C1=CC=C(C=C1)[OH+:11][Na:10]>>C1=CC=C(C=C1)[OH:11].[Na+:10] 10,11=11
[H:20][O:21]C(=O)C(F)(F)F.C1CN[C:10](=[C:11](CC2=CC=CC=C2)[OH:12])C3=C1C4=C(N3)C=CC=C4>>[H:20][C:10]1(C2=C(CCN1)C3=C(N2)C=CC=C3)[C:11](=[OH+:12])CC4=CC=CC=C4.C(=O)(C(F)(F)F)[O-:21] 10,11=10,20;20,21=21;12=11
[H:10][B-:11](OC(=O)C)(OC(=O)C)OC(=O)C.C1C[N+:21](=[C:20]2CC3CC(C3)C2)CCN1C4=CC=C(C=C4)[N+](=O)[O-].CC(=O)[O-].O.[Na+]>>[H:10][C:20]1(CC2CC(C2)C1)[N:21]3CCN(CC3)C4=CC=C(C=C4)[N+](=O)[O-].[B:11](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].O.[Na+] 10,11=10,20;20,21=21
[Li:11][C:10]1([CH:20](CCC1(C)O[Li])[O:21]C)CCCC.CCCC>>[Li+:11].[Li]OC1(CC[CH:20]=[C:10]1CCCC)C.C[O-:21].CCCC 10,11=10,20;20,21=21
C[CH+:20]C.CO[C:13]1=[CH:12][CH:11]=[CH:10]C(=C1)[N+](=O)[O-]>>C[CH:20](C)[CH:10]1[CH:11]=[CH:12][C+:13](C=C1[N+](=O)[O-])OC 10,11=10,20;12,13=11,12
C1=CC2=C(C(=C(N=C2C=C1)[O-:10])[N+](=O)[O-])O.[O:21]=[P:20](Cl)(Cl)Cl.CC[NH+](CC)CC>>C1=CC2=C(C(=C(N=C2C=C1)[O:10][P:20]([O-:21])(Cl)(Cl)Cl)[N+](=O)[O-])O.CC[NH+](CC)CC 10=20;20,21=21
[Li-]([NH+](C(C)C)C(C)C)[O:10]C1=CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C.C[Si:20](C)(C)Cl>>[Li-]([NH+](C(C)C)C(C)C)[O+:10](C1=CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C)[Si-:20](C)(C)(C)Cl 10=20,
[H:20][N+:21](=C1C(=O)C2=C(CC1(C)C)N(N=C2)C3=CC=C(C=C3)F)C4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)N.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH2:10].CCO.O.[Cl-]>>[H:20][NH2+:10]C1=C(C=CC(=C1)C(=O)C2=CC=CC=C2)N.CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C(=O)C1=[N:21]C4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)N)C.CCO.O.[Cl-] 10=20;20,21=21
C1=CC=C(C=C1)C[NH2:10].C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1=CC=C(C=C1)C[NH2+:10][CH2:20]C2=CC=C(C=C2)C#N.[Br-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(O)OC(=O)C=C.[OH2:10]>>CC(O)([OH:21])OC(=O)C=C.[H:20][OH2+:10] 10=20;20,21=21
CC=CCO[S:20](=O)(C1=CC=C(C=C1)C)([O-:10])[Cl:21]>>CC=CCO[S:20](=O)(=[O:10])C1=CC=C(C=C1)C.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)[N:10](C)C>>[H:20][N+:10](C)(C)C(C)N(CC)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[C:22](=[O:23])[CH:21]=[CH2:20].C[C:10]1=[C:11](CCCC1)[O-:12]>>CC[C:22](=[CH:21][CH2:20][C:10]1(CCCC[C:11]1=[O:12])C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
C[C:20](=[OH+:21])SC.C[OH:10]>>C[C:20]([OH:21])([OH+:10]C)SC 10=20;20,21=21
C1=CC=C(C=C1)C(=O)O[C:13]2=[CH:12][CH:11]=[CH:10]C=C2.[N+:20](=O)=[O:21]>>C1=CC=C(C=C1)C(=O)O[C+:13]2C=C[CH:10]([CH:11]=[CH:12]2)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21](CCCCC=C)([C:22]1=[N+:23](C(=C(S1)CCO)C)CC2=CC=CC=C2)O.CC[N:10](CC)CC.CC(C)C1C(=C)C(=O)C(=C1CCC=C)OC(=O)C2=CC=CC=C2.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](CCCCC=C)O)[N:23]1CC2=CC=CC=C2)CCO.CC(C)C1C(=C)C(=O)C(=C1CCC=C)OC(=O)C2=CC=CC=C2.[Cl-] 10=20;22,23=23;20,21=21,22
CC1(CC(C(=O)C2C1O2)(C)C[OH:10])C.CC(C)(C)[Si:20](C)(C)[N+]1=CNC=C1.[Cl-]>>CC1(CC(C(=O)C2C1O2)(C)C[OH+:10][Si-:20](C)(C)(C(C)(C)C)[N+]3=CNC=C3)C.[Cl-] 10=20,
[B-:10]([O+:11]=C1C(=COC2=C1C(=CC(=C2)O)O)C3=CC=C(C=C3)O)(F)(F)F.CCOCC.C[NH2+]C.O=P(Cl)(Cl)Cl.[Cl-]>>[B:10](F)(F)F.C1=CC(=CC=C1C2=COC3=C(C2=[O:11])C(=CC(=C3)O)O)O.CCOCC.C[NH2+]C.O=P(Cl)(Cl)Cl.[Cl-] 10,11=11
C[Si:20](C)(C)C(C=C)C(C1CC1C=C)[O-:10].[HH].[K+]>>C[Si-:20]1(C(C([O:10]1)C2CC2C=C)C=C)(C)C.[HH].[K+] 10=20,
C[C:20](=[O:21])CC=C(C)[NH:10]CCO.CC(=O)O.O>>CC1=CC[C:20]([NH+:10]1CCO)(C)[O-:21].CC(=O)O.O 10=20;20,21=21
[H:20][N+:21]1(C(CC(=N1)C(=O)OCC)(C2=CC=CO2)O)C3=CC(=CC=C3)C#N.[OH2:10].CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=O)C1=N[N:21](C(C1)(C2=CC=CO2)O)C3=CC(=CC=C3)C#N.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC(=[O:10])NCCC1=CC(=CC=C1)OC.[O:21]=[P:20](Cl)(Cl)Cl>>CC(=[O+:10][P:20]([O-:21])(Cl)(Cl)Cl)NCCC1=CC(=CC=C1)OC 10=20;20,21=21
[H:20][O:21]CC1CCCC2C13COC(OC3CC(C2(C)C4CC5CCOC5O4)C)(C)C.[H:10][Na:11].C(=S)=S>>[H:20][H:10].CC1CC2C3(COC(O2)(C)C)C(CCCC3C1(C)C4CC5CCOC5O4)C[O-:21].C(=S)=S.[Na+:11] 10,11=10,20;20,21=21
CCCC[C:20](=[O:21])C(CCC1CCCC1)CC(C)C.CCC(C1CCCCC1)[NH:10]CC.[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+]>>CCCC[C:20](C(CCC1CCCC1)CC(C)C)([NH+:10](CC)C(CC)C2CCCCC2)[O-:21].[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+] 10=20;20,21=21
[H:20][C:21]1(CCCC[C:22]1=[NH2+:23])CC(=O)C2=CC=C(C=C2)Cl.[OH-:10].CO.N>>[H:20][OH:10].C1CC[C:22](=[C:21](C1)CC(=O)C2=CC=C(C=C2)Cl)[NH2:23].CO.N 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)CCO)C.CC(=O)[O-:10].O>>CC1=C[CH:21]=[C:22]([N:23]1CCO)C.[H:20][O:10]C(=O)C.O 10=20;22,23=23;20,21=21,22
CCO[CH2:20][Cl:21].CC(CC=C(C)C)C(CC(=O)OC)[OH:10].CCN(C(C)C)C(C)C>>CCO[CH2:20][OH+:10]C(CC(=O)OC)C(C)CC=C(C)C.[Cl-:21].CCN(C(C)C)C(C)C 10=20;20,21=21
C[C:20](O)([O-:10])[Cl:21]>>C[C:20](=[O:10])O.[Cl-:21] 10=20;20,21=21
C[Mg:20]Br.[P:10](Cl)(Cl)Cl>>C[Mg-:20]([P+:10](Cl)(Cl)Cl)Br 10=20,
CC(C[NH2:10])O.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CC(C[NH2+:10][CH2:20]C1=CC=C(C=C1)C#N)O.[Br-:21] 10=20;20,21=21
CC(=O)OC1=C(C(=CC2=C1C3CC4C3C(O2)(CC4)C)O)C(CC(=O)O[C:20](=[O:21])C)[O-:10].[K+]>>CC(=O)OC1=C(C(=CC2=C1C3CC4C3C(O2)(CC4)C)O)C5CC(=O)O[C:20]([O:10]5)(C)[O-:21].[K+] 10=20;20,21=21
